US04879382
To 8.4 ml of a solution of methyl magnesium iodide (3.2M in diethyl ether, diluted with 10 ml tetrahydrofuran) was added a solution of 4.1 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 70 ml of tetrahydrofuran. After stirring at ambient temperature for 20 hours, the reaction mixture was quenched into 200 ml of an iced ammonium chloride solution and extracted with ethyl acetate (2×). The combined organics were washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The crude product was preadsorbed on silica (230-400 mesh) and flash chromatographed (elution with diethyl ether) to afford a solid, recrystallization of which from toluene yielded 2.1 g (48%) of 10,11-dihydro-5,10-dimethyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine, mp 157°-160° C.

reactant | methyl magnesium iodide | 3.2M, 10 ml | C[Mg]I
reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 4.1 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5,10-dimethyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 2.1 g, 48% | CN1N2C(C(NC3=C1C=CN=C3)C)=CC=C2 | C12H14N4
